US05596124
Preparation of Methyl 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]salicylate
A chilled solution of 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]salicylic acid (148 g, 0.45 mol) in methanol is saturated with hydrogen chloride gas, warmed to and held at room temperature overnight and poured onto ice. The aqueous mixture is adjusted to about pH 7.5 with concentrated ammonium hydroxide solution and extracted with methylene chloride. The combined organic extracts are washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate, treated with 10 g of silica gel, filtered and concentrated in vacuo to obtain a dark gum. The gum is dissolved in a methanol-water solution, treated with charcoal, filtered and crystallized to give the title product as an offwhite solid (102.3 g 66.2% mp 62°-64° C.).

reactant | 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]salicylic acid | 0.45 mol, 148 g | ClC1=C(C=CC(=C1)OC1=CC=C(C(C(=O)O)=C1)O)C(F)(F)F | C14H8ClF3O4
reactant | hydrogen chloride | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | charcoal | C | CH4
solvent | methanol | CO | CH4O
solvent | methanol water | CO.O
product | Methyl 5-[(2-chloro-α,α,α-trifluoro-p-tolyl)oxy]salicylate | ClC1=C(C=CC(=C1)OC1=CC=C(C(C(=O)OC)=C1)O)C(F)(F)F | C15H10ClF3O4
